US09210927B2
Preparation of (E)-1-Isopropyl-2-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzoyl)-N-(2,2,2-trifluoroethyl)hydrazinecarboxamide (FA3)
DIPEA (0.32 ml, 1.88 mmol), 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate (HATU) (263 mg, 0.69 mmol) and 1-amino-1-isopropyl-3-(2,2,2-trifluoroethyl)urea hydrochloride (178 mg, 0.75 mmol) were added to a stirred solution of 2-(trifluoromethyl)-4-[(E)-4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl]benzoic acid (300 mg, 0.63 mmol) in DMF (2 mL) at ambient temperature and the reaction mixture was stirred for 4 h. Water was added to the reaction mixture and it was extracted with EtOAc. The organic layer was washed with brine followed by water, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography on silica, eluting with 20% EtOAc in petroleum ether to afford the title compound as a brown gum (135 mg, 29%).

reactant | DIPEA | 1.88 mmol, 0.32 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium 3-oxid hexafluorophosphate | 0.69 mmol, 263 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | 1-amino-1-isopropyl-3-(2,2,2-trifluoroethyl)urea hydrochloride | 0.75 mmol, 178 mg | Cl.NN(C(=O)NCC(F)(F)F)C(C)C
reactant | 2-(trifluoromethyl)-4-[(E)-4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl]benzoic acid | 0.63 mmol, 300 mg | FC(C1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C18H9Cl3F6O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (E)-1-Isopropyl-2-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2-(trifluoromethyl)benzoyl)-N-(2,2,2-trifluoroethyl)hydrazinecarboxamide | 135 mg, 29% | C(C)(C)N(NC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C(F)(F)F)=O)C(=O)NCC(F)(F)F | C24H19Cl3F9N3O2
